US07579359B2
Under a nitrogen atmosphere, a mixture of 3-amino-4-chloroquinoline (2.50 g, 1 eq), benzoyl chloride (3.0 g, 1.5 eq), and anhydrous dichloromethane (100 mL) was heated at 40° C. After 23 hours additional benzoyl chloride (3.0 g, 1.5 eq) was added and heating was continued for a total of 48 hours. The reaction mixture was diluted with ethyl acetate, washed sequentially with aqueous potassium carbonate (×2), water, and brine, dried over sodium sulfate, filtered, and then concentrated under reduced pressure. The crude product was purified by column chromatography (230 g of silica gel eluted initially with a gradient of 20-50% ethyl acetate in hexanes and then with 4/3/3 dichloromethane/ethyl acetate/hexanes) to provide 1.01 g of N-(4-chloroquinolin-3-yl)benzamide as a white solid.

reactant | 3-amino-4-chloroquinoline | 2.50 g, 1 eq | NC=1C=NC2=CC=CC=C2C1Cl | C9H7ClN2
reactant | benzoyl chloride | 3.0 g, 1.5 eq | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
reactant | benzoyl chloride | 3.0 g, 1.5 eq | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-chloroquinolin-3-yl)benzamide | 1.01 g | ClC1=C(C=NC2=CC=CC=C12)NC(C1=CC=CC=C1)=O | C16H11ClN2O
